US05703116
Preparation of Methyl 6-Methyl-3-Chlorobenzo[b]thiophene-2-Carboxylate
Crude 6-methyl-3-chlorobenzo[b]thiophene-2-carbonyl chloride (5 g, 20.46 mmoles) was transferred to a 250 ml round bottomed flask. Anhydrous methanol (Aldrich, 80 ml) was added and the acid chloride dissolved by stirring. To this stirred solution was added chlorotrimethylsilane (3.0 equivalents, 61.38 mmole, 6.68 g, 7.80 ml). The reaction mixture was stirred at room temperature and the progress of the reaction monitored by TLC (Silica, 1:1 hexane:ethyl acetate, and 100% ethyl acetate, iodine and UV visualization). The reaction was shown to be complete after 24 hours. The resulting slurry was concentrated in vacuo to give 4.80 g of a yellow solid, which was shown by 1H NMR (DMSO-D6, 400 MHz) to be the desired material. The crude methyl ester was shown to be pure and used directly.

reactant | 6-methyl-3-chlorobenzo[b]thiophene-2-carbonyl chloride | 20.46 mmoles, 5 g | CC=1C=CC2=C(SC(=C2Cl)C(=O)Cl)C1 | C10H6Cl2OS
reactant | methanol | 80 ml | CO | CH4O
reactant | chlorotrimethylsilane | 61.38 mmole, 7.80 ml, 6.68 g, 3.0 equivalents | Cl[Si](C)(C)C | C3H9ClSi
reactant | iodine | II | I2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | Methyl 6-Methyl-3-Chlorobenzo[b]thiophene-2-Carboxylate | 4.80 g | CC=1C=CC2=C(SC(=C2Cl)C(=O)OC)C1 | C11H9ClO2S
